US09315521B2
2-[({2-chloro-4-[(diethylamino)methyl]phenyl}methyl)sulfanyl]-6-methylpyrimidin-4-ol
A mixture of {[3-(bromomethyl)-4-chlorophenyl]methyl}diethylamine (13.2 mmol), 6-methyl-2-sulfanylpyrimidin-4-ol (1.07 g, 7.5 mmol), and triethylamine (8 mL, 57.4 mmol) in absolute ethanol (50 mL) was stirred at room temperature overnight. The mixture was evaporated and then co-evaporated with EtOAc (20 mL). The solid residue was treated with water (100 mL). The solution was extracted with dichloromethane (5×100 mL). The organic extracts were combined, dried over MgSO4, filtered, evaporated, and dried in vacuo. The crude product was purified by flash chromatography (0-15% MeOH/CH2Cl2), affording the title compound (932 mg, 39% yield); 1H NMR (400 MHz, DMSO-d6): δ 1.11 (t, 6H, J=6.8 Hz), 2.21 (s, 3H), 2.86 (m, 4H), 4.09 (s (br), 2H), 4.45 (s, 2H), 6.01 (s (br), 1H), 7.45 (m, 1H), 7.52 (m, 1H), 7.72 (s, 1H); M+352.

reactant | {[3-(bromomethyl)-4-chlorophenyl]methyl}diethylamine | 13.2 mmol | BrCC=1C=C(C=CC1Cl)CN(CC)CC | C12H17BrClN
reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 7.5 mmol, 1.07 g | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | triethylamine | 57.4 mmol, 8 mL | C(C)N(CC)CC | C6H15N
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-[({2-chloro-4-[(diethylamino)methyl]phenyl}methyl)sulfanyl]-6-methylpyrimidin-4-ol | 932 mg, 39% yield | ClC1=C(C=CC(=C1)CN(CC)CC)CSC1=NC(=CC(=N1)O)C | C17H22ClN3OS
